* D:\Shared\输出端原理图\ltspice\sink_vendor.asc
* Generated by LTspice 26.0.2 for Windows.
R5 V3V3 DIV 100k
R7 DIV 0 10k
V33 V3V3 0 3.3
R6 I_SET DIV 10k
C12 I_SET 0 100n
X§U3 I_SET I_SENSE V3V3 0 OUTA OPAx333 ;§pnba In+)In-)V+)V-)OUT
C13 V3V3 0 100n
C14 OUTA I_SENSE 100p
R8 STIM_GATE OUTA 10k
R_BONE BONE_P BONE_N 10k
X§Q1 BONE_N STIM_GATE I_SENSE N7002 ;§pnba D)G)S
R9 STIM_GATE I_SENSE 10Meg
R10 I_SENSE 0 3k
V8 BONE_P 0 8.0016
.include models/OPAx333.LIB
.include models/2N7002_DIODES.lib
.include inc/solver.inc
.op
.save V(V3V3) V(BONE_P) V(BONE_N) V(I_SET) V(I_SENSE) V(OUTA) V(STIM_GATE) I(R_BONE) I(R10)
.options plotwinsize=0 numdgt=7
.backanno
.end
